US05120738
Preparation of 3-(N-Oleoylamino]propyl 3-[N-(2,4-dibenzyloxy-3,3-dimethyl-4-oxobutyl)amino]propionate
3-(N-Oleoylamino)propyl 3-[N-(2,4-dihydroxy-3,3-dimethyl-1-oxobutyl)amino]propionate (270 mg) and 281 mg of benzoyl chloride were reacted in the same manner as in Example 36 to obtain 260 mg of the title compound (yield: 69%).

reactant | 3-(N-Oleoylamino)propyl 3-[N-(2,4-dihydroxy-3,3-dimethyl-1-oxobutyl)amino]propionate | 270 mg | OC(C(=O)NCCC(=O)OCCCNC(CCCCCCC\C=C/CCCCCCCC)=O)C(CO)(C)C | C30H56N2O6
reactant | benzoyl chloride | 281 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 3-(N-Oleoylamino]propyl 3-[N-(2,4-dibenzyloxy-3,3-dimethyl-4-oxobutyl)amino]propionate | 260 mg, yield: 69% | C(C1=CC=CC=C1)OC(CNCCC(=O)OCCCNC(CCCCCCC\C=C/CCCCCCCC)=O)C(C(=O)OCC1=CC=CC=C1)(C)C | C44H68N2O6
